US06525042B1
2-tert-Butoxycarbonyl-6-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline
In methanol (50 ml), 2-tert-butoxycarbonyl-6-trifluoromethanesulfonyloxy-1,2,3,4-tetrahydroisoquinoline (1.34 g) was dissolved, followed by the addition of triethylamine (0.73 ml), palladium (II) acetate (40 mg) and 1,3-(diphenylphosphino)propane (145 mg). The resulting mixture was stirred overnight at 70° C. under a carbon monoxide gas stream. After the reaction mixture was concentrated under reduced pressure, the residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=15:1), whereby the title compound (665 mg, 65%) was obtained.

reactant | 2-tert-butoxycarbonyl-6-trifluoromethanesulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 1.34 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OS(=O)(=O)C(F)(F)F | C15H18F3NO5S
reactant | triethylamine | 0.73 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium (II) acetate | 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-tert-Butoxycarbonyl-6-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C(=O)OC | C16H21NO4
